US06437161B1
A solution of 4.4 g of 8-bromo-2-methylquinoline (20 mmol) in 50 ml of THF was cooled to −78° C., and 8.8 ml of n-BuLi (2.5 M in hexane, 22 mmol) were added dropwise with stirring. After the mixture had been stirred for 10 minutes, 3.5 g of 2,3,4,5-tetramethylcyclopentenone (25 mmol) were added dropwise, and the solution was warmed to room temperature, refluxed for one hour and cooled. Ice and hydrochloric acid were added to about pH 1, the mixture was neutralized using ammonia solution, the phases were separated, and the aqueous phase was extracted with pentane. After the combined organic extracts had been dried, the pentane was removed under reduced pressure, and the brown oil which remained was distilled under a high vacuum (b.p.: 115° C./0.01 mbar). 1-(2-Methyl-8-quinolyl)-2,3,4,5-tetramethylcyclopentadiene was obtained as a yellow, viscous oil in a yield of 60% (3.2 g).

reactant | 8-bromo-2-methylquinoline | 20 mmol, 4.4 g | BrC=1C=CC=C2C=CC(=NC12)C | C10H8BrN
reactant | n-BuLi | 22 mmol, 2.5 M, 8.8 ml | [Li]CCCC
reactant | 2,3,4,5-tetramethylcyclopentenone | 25 mmol, 3.5 g | CC=1C(C(C(C1C)C)C)=O | C9H14O
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(2-Methyl-8-quinolyl)-2,3,4,5-tetramethylcyclopentadiene | yield of 60% | CC1=NC2=C(C=CC=C2C=C1)C1=C(C(=C(C1C)C)C)C | C19H21N
